US05100897
2-n-Butyl-3-(2'-(tetrazol-5-yl)biphenyl-4-yl)methyl-5-ethoxycarbonylpyrimidin-4(3H)-one
The title compound is prepared by heating one equivalent of 2-n-butyl-3-(2'-cyanobiphen-4-yl)methyl-5-ethoxycarbonylpyrimidin-4(3H)-one from (from Example 7) with one to four equivalents of trimethylstannyl azide in toluene. After completion of the reaction the trimethylstannyl moiety is removed from the tetrazole moiety by workup with an acidic aqueous solution such as saturated aqueous ammonium chloride.

reactant | 2-n-butyl-3-(2'-cyanobiphen-4-yl)methyl-5-ethoxycarbonylpyrimidin-4(3H)-one | one equivalent | C(CCC)C1=NC=C(C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)=O)C(=O)OCC | C25H25N3O3
reactant | trimethylstannyl azide | one to four equivalents | C[Sn](C)(C)N=[N+]=[N-]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-n-Butyl-3-(2'-(tetrazol-5-yl)biphenyl-4-yl)methyl-5-ethoxycarbonylpyrimidin-4(3H)-one | C(CCC)C1=NC=C(C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)=O)C(=O)OCC | C25H26N6O3
